US04075227
To the mixture then were added dropwise 103 grams (1 mole) of benzonitrile in 500 ml. of ether. A vigorous reaction occurred. The mixture was stirred for 16 hours, and then 500 ml. of water were gradually added. The reaction mixture then was filtered through a glass wool plug to remove excess magnesium. The ether was evaporated, and to the resulting aqueous layer were added 300 ml. of concentrated hydrochloric acid. The resulting mixture was heated on a steam bath for one hour. The product was extracted into ether, and the ether layer was washed with water, dried, and distilled to obtain 127 grams (60 percent) of m-methoxybenzophenone as a pale green liquid, b.p. 135°-139°/0.05 mm.

reactant | benzonitrile | 1 mole, 103 grams | C(C1=CC=CC=C1)#N | C7H5N
reactant | ether | CCOCC | C4H10O
reactant | water | O | H2O
product | m-methoxybenzophenone | 127 grams, 60 percent | COC=1C=C(C=CC1)C(C1=CC=CC=C1)=O | C14H12O2
